US09216980B2
Step 3: 9-Benzenesulfonyl-5-[1-(2,2,2-trifluoroethyl)-piperidin-4-ylmethyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
N,N-Diisopropylethylamine (100 mg, 0.77 mmol) and trifluoromethane sulfonic acid 2,2,2-trifluoroethyl ester (100 mg, 0.43 mmol) in THF (1 mL) were added to a solution of 9-benzenesulfonyl-5-piperidin-4-ylmethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile in THF (4 mL) and resultant mixture stirred at ambient temperature for 30 min. The mixture was then filtered through a 2 g Sill SPE cartridge, eluting with THF. The THF washings were concentrated in vacuo and the resultant residue was purified by flash chromatography (silica, 2 g column, Si H SPE, 0-20% ethyl acetate in DCM) to afford title compound as a white solid (0.16 g, 85%). 1H NMR (CDCl3, 400 MHz): 9.81 (d, J=2.9 Hz, 1H), 8.81-8.75 (m, 1H), 8.34 (d, J=8.1 Hz, 1H), 8.28 (d, J=7.9 Hz, 2H), 7.66-7.59 (m, 1H), 7.55-7.45 (m, 3H), 3.35-3.27 (m, 2H), 3.02-2.88 (m, 5H), 2.32-2.21 (m, 2H), 1.86-1.60 (m, 4H).

reactant | N,N-Diisopropylethylamine | 0.77 mmol, 100 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethane sulfonic acid 2,2,2-trifluoroethyl ester | 0.43 mmol, 100 mg | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
reactant | 9-benzenesulfonyl-5-piperidin-4-ylmethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3CC3CCNCC3)C#N)C=CC=N2 | C23H21N5O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 9-Benzenesulfonyl-5-[1-(2,2,2-trifluoroethyl)-piperidin-4-ylmethyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.16 g, 85% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3CC3CCN(CC3)CC(F)(F)F)C#N)C=CC=N2 | C25H22F3N5O2S
